US06716851B2
4-(2-Chloro-5-methoxyanilino)-6-methyl-2-aminopyrimidine
The title compound was prepared from a mixture of 2-amino-4-chloro-6-methyl-pyrimidine (100 mg, 0.696 mmol) and 2-chloro-5-methoxyaniline hydrochloride (203 mg, 1.05 mmol) similar to Example 117 and isolated as a white solid (132 mg, 72%). 1H NMR (CDCl3): 7.77 (d, J=2.7 Hz, 1H), 7.28 (d, J=9.0 Hz, 6.74 (s, 1H), 6.57 (dd, J=3.0, 8.7 Hz, 1H), 6.04 (s, 1H), 4.81 (s, 2H), 3.82 (s, 3H), 2.26 (s, 3H).

reactant | 2-amino-4-chloro-6-methyl-pyrimidine | 0.696 mmol, 100 mg | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | 2-chloro-5-methoxyaniline hydrochloride | 1.05 mmol, 203 mg | Cl.ClC1=C(N)C=C(C=C1)OC
product | 4-(2-Chloro-5-methoxyanilino)-6-methyl-2-aminopyrimidine | ClC1=C(NC2=NC(=NC(=C2)C)N)C=C(C=C1)OC | C12H13ClN4O
